US05326868
A mixture of 3-Benzamido-2-carboethoxyindole (3.0 g) and phosphorous oxychloride (20 mL) was refluxed for 30 min. The reaction mixture was concentrated in vacuo and the residue was triturated with ether to afford a white solid. This solid was treated with 40 mL of isopropanol which had been previously saturated with ammonia and heated in a sealed tube at 120° C. for 40 min. The reaction mixture was again concentrated in vacuo and the residue was triturated with ether to afford 3-Benzamido-indole-2-carboxamide as a white solid.

reactant | 3-Benzamido-2-carboethoxyindole | 3.0 g | C(C1=CC=CC=C1)(=O)NC1=C(NC2=CC=CC=C12)C(=O)OCC | C18H16N2O3
reactant | phosphorous oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
product | 3-Benzamido-indole-2-carboxamide | C(C1=CC=CC=C1)(=O)NC1=C(NC2=CC=CC=C12)C(=O)N | C16H13N3O2
